US05789595
1.59 g of N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-3-methylpiperidine was dissolved in 20 ml of methylene chloride, and 5 ml of trifluoroacetic acid was added to the solution. The solution was stirred overnight at room temperature, and the resulting solution was concentrated under reduced pressure to obtain N-benzyloxycarbonyl-4-carbonylmethyloxy-3-methylpiperidine, which was an oily product with no color. The concentrate was dissolved in 40 ml of DMF, and 1.93 g of BOP reagent, 1.09 g of 7-amino-2-(2-(ethoxycarbonyl)ethyl)-1,2,3,4-tetrahydroisoquinoline obtained in Example 2, and 1.33 g of triethylamine were added to this solution in an ice bath. The solution was stirred overnight at room temperature, and the resulting solution was extracted with ethyl acetate, washed with water, saturated aqueous solution of sodium bicarbonate, and saturated aqueous solution of sodium chloride, and dried with anhydrous sodium sulfate. After separating the desiccant by filtration, the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography, and from the fractions eluted with chloroform-methanol (100:3 v/v) was obtained 1.14 g of 7-[1-(benzyloxycarbonyl)-2-methylpiperidine-4-yloxyacetylamino]-2-[2-(ethoxycarbonyl)ethyl]-1,2,3,4-tetrahydroisoquinoline, which was an oily product (yield: 49%).

reactant | N-benzyloxycarbonyl-4-tert-butoxycarbonylmethyloxy-3-methylpiperidine | 1.59 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)OCC(=O)OC(C)(C)C)C | C20H29NO5
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxycarbonyl-4-carbonylmethyloxy-3-methylpiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)OC=C=O)C | C16H19NO4
